US04661512
(1) benzyl N-(2-methoxyethyl)-(L)-pyroglutamate
A solution of 28.5 g (0.13 mol) of benzyl (L)-pyroglutamate, prepared according to Example II(1), in 200 ml of N,N-dimethylformamide is added over 1.5 hours to a suspension of 6.24 g (0.13 mol) of solution hydride in 30 ml of N,N-dimethylformamide. The mixture is stirred for 1 hour at ordinary temperature and a solution of 14.7 g (156 mmol) of 2-methoxyethyl chloride in 100 ml of dimethylformamide is then run in. The mixture is heated at 70° C. for 5 hours and stirred at ordinary temperature for 15 hours and evaporated to dryness, the residue is taken up with 200 ml of 0.5N hydrochloric acid, extraction is carried out with benzene and the extract is washed with water and dried. After evaporation of the benzene layer, the residue is purified by chromatography on a silica column using a methylene chloride/ether mixture as the eluent. This gives 45% of a pure product of Rf=0.45 (A).

reactant | benzyl (L)-pyroglutamate | 0.13 mol, 28.5 g | N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | hydride | [H-]
reactant | 2-methoxyethyl chloride | 156 mmol, 14.7 g | COCCCl | C3H7ClO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | benzyl N-(2-methoxyethyl)-(L)-pyroglutamate | COCCN1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C15H19NO4
